US07935815B2
Synthesis of (E)-3-[5-methoxy-6-(4-methyl-1H-imidazol-1-yl)pyridin-3-yl]acrylonitrile
A mixture of 5-bromo-3-methoxy-2-(4-methyl-1H-imidazol-1-yl)pyridine (3.8 g), tris(dibenzylideneacetone)dipalladium (650 mg), tri-o-tolylphosphine (433 mg), N,N-diisopropylethylamine (4.86 mL), DMF (14.1 mL) and acrylonitrile (2.82 mL) was stirred in a nitrogen atmosphere at 110° C. for five hours. The reaction solution was left to cool to room temperature and then concentrated under reduced pressure. The residue was diluted with ethyl acetate and then filtered through celite, and the filtrate was washed with water. The organic layer was concentrated under reduced pressure, and the precipitated crystals were hot dissolved in ethyl acetate. After leaving to cool to room temperature, the precipitated crystals were collected by filtration and air-dried to obtain 1.79 g of the title compound. The filtrate was concentrated under reduced pressure. Then, the residue was purified by silica gel column chromatography (heptane-ethyl acetate system) and then recrystallized from ethyl acetate to obtain 0.312 g of the title compound. The property value of the compound is as follows.

reactant | 5-bromo-3-methoxy-2-(4-methyl-1H-imidazol-1-yl)pyridine | 3.8 g | BrC=1C=C(C(=NC1)N1C=NC(=C1)C)OC | C10H10BrN3O
reactant | tri-o-tolylphosphine | 433 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | N,N-diisopropylethylamine | 4.86 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | acrylonitrile | 2.82 mL | C(C=C)#N | C3H3N
catalyst | tris(dibenzylideneacetone)dipalladium | 650 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | DMF | 14.1 mL | CN(C)C=O | C3H7NO
product | (E)-3-[5-methoxy-6-(4-methyl-1H-imidazol-1-yl)pyridin-3-yl]acrylonitrile | 1.79 g | COC=1C=C(C=NC1N1C=NC(=C1)C)/C=C/C#N | C13H12N4O
